US08048909B2
tert-Butyl {{1-[(4-fluorophenyl)sulfonyl]-5-(3-thienyl)-1H-pyrrol-3-yl}methyl}methylcarbamate
Using tert-butyl {{5-bromo-1-[(4-fluorophenyl)sulfonyl]-1H-pyrrol-3-yl}methyl}methylcarbamate (0.60 g), 3-thienylboronic acid (0.35 g), tetrakis(triphenylphosphine)palladium (0.24 g) and sodium carbonate (0.43 g), a procedure as in Reference Example 56 was performed to give the title compound as a colorless solid (yield 0.42 g, 69%).

reactant | tert-butyl {{5-bromo-1-[(4-fluorophenyl)sulfonyl]-1H-pyrrol-3-yl}methyl}methylcarbamate | 0.60 g | BrC1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)F)CN(C(OC(C)(C)C)=O)C | C17H20BrFN2O4S
reactant | 3-thienylboronic acid | 0.35 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 0.43 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.24 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl {{1-[(4-fluorophenyl)sulfonyl]-5-(3-thienyl)-1H-pyrrol-3-yl}methyl}methylcarbamate | yield 0.42 g, 69% | FC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CSC=C1)CN(C(OC(C)(C)C)=O)C | C21H23FN2O4S2
